US06995144B2
3-[4-[1-Hydroxyimino-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one
After suspending 150 mg of 3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one in 3 ml of ethanol, 47 mg of hydroxylamine hydrochloride and 193 mg of sodium carbonate were added while stirring and the mixture was heated to reflux for 1 hour. Water and saturated aqueous ammonium chloride solution were added to the reaction solution for adjustment to pH 7, and extraction was performed with dichloromethane. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added and the insoluble portion was filtered out to obtain the title compound (109 mg, 70% yield).

reactant | 3-[4-[2-(2-fluorophenyl)acetyl]piperidino]methyl-1H-pyrazin-2-one | 150 mg | FC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC=1C(NC=CN1)=O | C18H20FN3O2
reactant | hydroxylamine hydrochloride | 47 mg | Cl.NO
reactant | sodium carbonate | 193 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 3-[4-[1-Hydroxyimino-2-(2-fluorophenyl)ethyl]piperidino]methyl-1H-pyrazin-2-one | 109 mg, 70% yield | ON=C(CC1=C(C=CC=C1)F)C1CCN(CC1)CC=1C(NC=CN1)=O | C18H21FN4O2
